US05378729
Synthesis of 2-Acetamido-N-benzyl-2-(ethanesulfonyl)acetamide
An aqueous solution (20 mL) of NaIO4 (3.00 g, 14.02 mmol) was added to a MeOH solution (20 mL) of 2-acetamido-N-benzyl-2-(ethylmercapto)acetamide (0.95 g, 3.57 mmol). The initial homogeneous solution rapidly became turbid. H2O (~10 mL) was then added dropwise until the system became homogeneous. The solution was stirred (18 h) at 50°-60° C. MeOH (50 mL) was added to the reaction solution and the precipitated salt was filtered and washed with MeOH (10 mL). The filtrate was concentrated and the remaining solution was extracted with CHCl3 (3×50 mL). The combined CHCl3 extracts were dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography on SiO2 gel (1% MeOH/CHCl3) to give the desired product. The product was further purified by recrystallization from EtOH:.

reactant | 2-acetamido-N-benzyl-2-(ethylmercapto)acetamide | 3.57 mmol, 0.95 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)SCC | C13H18N2O2S
reactant | H2O | ~10 mL | O | H2O
reactant | MeOH | 50 mL | CO | CH4O
reactant | MeOH | 20 mL | CO | CH4O
product | 2-Acetamido-N-benzyl-2-(ethanesulfonyl)acetamide | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)S(=O)(=O)CC | C13H18N2O4S
